data/mechanisms/records/IMS8-EQ8.116.json
{"mechanism_id": "IMS8-EQ8.116", "species": [{"species_id": "distonic_ion_left", "mapped_smiles": "[CH2:1][CH2:2][CH:3]=[OH+:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cyclopropanol_radical_cation", "mapped_smiles": "[CH:3]1([OH+:4])[CH2:1][CH2:2]1", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_ion_right", "mapped_smiles": "[CH2:2][CH2:1][CH:3]=[OH+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_ion_left"]}, {"state_id": "state_cyclic", "species_ids": ["cyclopropanol_radical_cation"]}, {"state_id": "state_products", "species_ids": ["distonic_ion_right"]}], "steps": [{"step_id": "step_ring_closure", "from_state": "state_precursor", "to_state": "state_cyclic", "step_class": "radical_site_cyclization", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_ring_opening", "from_state": "state_cyclic", "to_state": "state_products", "step_class": "ring_opening", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "ev_step1", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ring_closure", "support_type": "textbook_proposed", "locator": {"page": 219, "equation": "8.116", "figure": null, "panel": "left equilibrium (double) arrow", "section": "8.11 Other rearrangements"}, "confidence": 0.7, "curator_note": "ARCS ACTUALLY DRAWN: ZERO. Equation 8.116 consists of three structures joined by two double-headed EQUILIBRIUM arrows; no curved arrow or fishhook is drawn, so all three moves of this step are curator-constructed (they are the canonical three-fishhook radical ring closure: the C1 radical electron into the forming C1-C3 bond, one electron of the C3=O pi bond into that same forming bond, and the second pi electron onto oxygen, which is where the book's '+.' sits on the cyclic structure). WHAT THE PAGE DRAWS: '.CH2CH2CH=+OH' on the left, the cyclopropane ring with a 'CHOH' apex and '+.' written outside the structure in the middle, and 'H+O=CHCH2CH2.' on the right. The middle structure is drawn by the book, so it is encoded as a genuine intermediate state rather than an invention. Convention B/C: the book leaves the charge and odd electron of the cyclic ion unlocalised ('+.' outside the ring); they are localised here on the hydroxyl oxygen (O+. with two bonds), the n-ionised cyclopropanol form, so that the arrows have a real origin and terminus."}, {"evidence_id": "ev_step2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 219, "equation": "8.116", "figure": null, "panel": "right equilibrium (double) arrow", "section": "8.11 Other rearrangements"}, "confidence": 0.7, "curator_note": "ARCS ACTUALLY DRAWN: ZERO (see the first step). The right-hand structure the book prints, 'H+O=CHCH2CH2.', is the SAME connectivity as the left-hand one written in the opposite direction: the point of Equation 8.116 is that ring closure and re-opening of the OTHER ring bond permutes the two methylene groups, i.e. the interconversion is degenerate. That permutation is what the atom maps record here: the ring opens at C2-C3 instead of C1-C3, so the radical ends up on C2 while the carbon skeleton is unchanged. Three fishhooks, the exact reverse of step 1."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": null, "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 58.0413, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_58", "species_id": "distonic_ion_right", "step_id": "step_ring_opening", "observed_mz": 58.0413, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
